US09169254B2
4 N HCl-dioxane (7.5 ml, 30 mmol) was added to a solution of the crude product [3-(4-bromo-3-methyl-phenyl)-ureido]-acetic acid ethyl ester (5.07 g) in dioxane (60 ml), and the mixture was heated with stirring at 80° C. for 17 hours. The reaction mixture was cooled to room temperature and then concentrated under reduced pressure, and water was added, followed by extraction with ethyl acetate. The organic phase was washed with saturated brine and then concentrated under reduced pressure. The resulting residue was purified by silica gel column chromatography to give 3-(4-bromo-3-methyl-phenyl)-imidazolidine-2,4-dione (2.40 g, 37%).

reactant | HCl dioxane | 30 mmol, 4 N, 7.5 ml | Cl.O1CCOCC1
reactant | [3-(4-bromo-3-methyl-phenyl)-ureido]-acetic acid ethyl ester | 5.07 g | C(C)OC(CNC(=O)NC1=CC(=C(C=C1)Br)C)=O | C12H15BrN2O3
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | 3-(4-bromo-3-methyl-phenyl)-imidazolidine-2,4-dione | 2.40 g, 37% | BrC1=C(C=C(C=C1)N1C(NCC1=O)=O)C | C10H9BrN2O2
